US05364875
Part A. Sodium hydride (1.62 g of a 50% slurry, 33.8 mmol) was washed with hexane and dried under vacuum. Dimethylformamide (50 mL) was added, followed by a solution of 2-isopropyl-1H-benzimidazole (5.41 g, 33.8 mmol) in dimethylformamide (15 mL). After stirring at ambient temperature for two hours, the mixture was treated with ethyl 5-bromovalerate (5.50 mL, 34.8 mmol) and sodium iodide (1.19 g, 7.94 mmol). The mixture was heated to 80° C. for 18 hours, then cooled and poured into ethyl acetate (200 mL). This was washed with water (4×200 mL), then brine (200 mL), and dried over anhydrous magnesium sulfate, filtered and evaporated. The product, 1-(4-carboethoxybutyl)-2-(1-methylethyl)-1H-benzimidazole, was obtained as an oil after purification by silica gel chromatography (1:2 ethyl acetate-hexane) (9.54 g, 33.1 mmol, 98%). 1H NMR (CDCl3): 7.75 (1H, dd, J= 5.6, 3.1 Hz); 7.34-7.19 (3H, m); 4.12 (2H, q, J=7.1 Hz); 1.92-1.80 (2H, m); 1.78-1.65 (2H, m); 1.45 (6H, d, J=6.6 Hz); 1.24 (3H, t, J=7.0 Hz).

reactant | 2-isopropyl-1H-benzimidazole | 33.8 mmol, 5.41 g | C(C)(C)C1=NC2=C(N1)C=CC=C2 | C10H12N2
reactant | ethyl 5-bromovalerate | 34.8 mmol, 5.50 mL | BrCCCCC(=O)OCC | C7H13BrO2
reactant | sodium iodide | 7.94 mmol, 1.19 g | [I-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1-(4-carboethoxybutyl)-2-(1-methylethyl)-1H-benzimidazole | C(=O)(OCC)CCCCN1C(=NC2=C1C=CC=C2)C(C)C | C17H24N2O2
